US05206240
To a solution of 1.13 g (5.6 mmoles) 1,3-dihydro-1-oxospiro[2H-indene-2,4'-piperidine] in 15 ml methylene chloride cooled to 0° C. was added 1.23 g (12.0 mmoles) acetic anhydride. The solution was stirred at 0° for 1 hour and the solvent was removed in vacuo to give crude 1'-acetylspiro[2H-indene-2,4'-piperidine]-1(3H)-one.

reactant | 1,3-dihydro-1-oxospiro[2H-indene-2,4'-piperidine] | 5.6 mmoles, 1.13 g | O=C1C2=CC=CC=C2CC12CCNCC2 | C13H15NO
reactant | acetic anhydride | 12.0 mmoles, 1.23 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 1'-acetylspiro[2H-indene-2,4'-piperidine]-1(3H)-one | C(C)(=O)N1CCC2(CC1)C(C1=CC=CC=C1C2)=O | C15H17NO2
